US05530157
A mixture of 2-bromo-O-benzyl phenol (J. Med. Chem. (1992) 35:3483) (2.17 g; 8.25 mmol), methyl acrylate (0.83 g; 9.9 mmol), dichloropalladium(II)bis(triphenylphosphine) (150 mg) and triethylamine (2.51 g; 24.7 mmol) in 10 mL of DMF was heated in a sealed tube to 120° C. for 16 hrs. After cooling, the tube's contents were partitioned between ethyl acetate and water. Removal of the organic solvent and purification on silica gel (20% ethyl acetate/hexane) afforded 1.22 g (55%) of methyl 2-benzoxycinnamate, 1H NMR (CDCl3): δ 3.78 (s, 3H); 5.15 (s, 2H); 6.54 (d, 1H, J=16.2); 6.95 (m, 2); 7.33-7.41 (m, 6H); 7.52 (d, 1H, J=7.7).

reactant | 2-bromo-O-benzyl phenol | 8.25 mmol, 2.17 g | BrC1=C(C=CC=C1)OCC1=CC=CC=C1 | C13H11BrO
reactant | methyl acrylate | 9.9 mmol, 0.83 g | C(C=C)(=O)OC | C4H6O2
reactant | triethylamine | 24.7 mmol, 2.51 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | methyl 2-benzoxycinnamate | 1.22 g, 55% | C(C1=CC=CC=C1)OC1=C(C=CC(=O)OC)C=CC=C1 | C17H16O3
